US06977267B2
4-Trifluoromethanesulfonyloxy-benzoic acid tert-butyl ester
Trifluoromethanesulfonic anhydride (1.04 ml, 6.2 mmol) was added to a cooled (5° C.) solution of tert-butyl 4-hydroxybenzoate (1 g, 5.1 mmol) in a mixture of DCM (25 ml) and TEA (1.1 ml, 7.8 mmol). After 4 h at 5° C., water was added. The organic layer was separated, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed over silica gel (eluent: cyclohexane/iPr2O 95/5) to yield the above-titled compound as a colorless oil (1.45 g). 1H NMR (CDCl3): 8.09 (2H, d, J=8.6 Hz), 7.32 (2H, d, J=8.6 Hz), 1.60 (9H, s).

reactant | Trifluoromethanesulfonic anhydride | 6.2 mmol, 1.04 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tert-butyl 4-hydroxybenzoate | 5.1 mmol, 1 g | OC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H14O3
reactant | water | O | H2O
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-Trifluoromethanesulfonyloxy-benzoic acid tert-butyl ester | 1.45 g | C(C)(C)(C)OC(C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C12H13F3O5S
